US09278973B2
To a solution of 1-aminoguanidine carbonic acid salt (12 g, 88 mmol) in pyridine (50 ml) was added ethyl 2-chloro-2-oxoacetate (10 g, 73.24 mmol). The resulting solution was stirred for 12 h at room temperature. The resulting solution was diluted with PE (200 ml). The solids were collected by filtration and then dissolved in water (50 ml), the pH was adjusted to 8 with NaOH (aq., 10N). The product precipitated and was filtered to afford ethyl 2-(2-carbamimidoylhydraziny)-2-oxoacetic acid as a white solid (2 g, 19%).

reactant | 1-aminoguanidine carbonic acid salt | 88 mmol, 12 g | C(O)(O)=O.NNC(=N)N
reactant | ethyl 2-chloro-2-oxoacetate | 73.24 mmol, 10 g | ClC(C(=O)OCC)=O | C4H5ClO3
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | ethyl 2-(2-carbamimidoylhydraziny)-2-oxoacetic acid | 2 g, 19% | C(C)OC(C(=O)NNC(N)=N)=O | C5H10N4O3
